US07420056B2
21.4 ml (155 mmol) of trimethylsilylacetylene, 2.4 g (12.9 mmol) of copper(I) iodide and 4.5 g (6.5 mmol) of bis(triphenylphosphine)-palladium(II) chloride were added to a solution of 45.3 g (129 mmol) of [2-(5-bromo-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-tert-butyl-amine (synthesis described in Example 18, part a) in DMF (760 ml) and NEt3 (90 ml). The reaction solution was heated to 60° C. for 4 h and stirred at RT for 16 h. The mixture was then combined with a 1M aq. Na2CO3 solution and diluted with EA. The phases were separated and the aq. phase was extracted with EA. The combined organic phases were washed with water and dried over MgSO4. After filtration and removal of the solvents under a vacuum, the resultant group was redissolved with an EA/DCM (1:1) mixture and filtered through diatomaceous earth. The filtrate was evaporated under a vacuum. 30.8 g (84 mmol, 65%) of tert-butyl-[2-(5-trimethylsilanylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-amine were obtained from the group were by crystallisation from tert.-butyl-methyl ether.

reactant | trimethylsilylacetylene | 155 mmol, 21.4 ml | C[Si](C)(C)C#C | C5H10Si
reactant | [2-(5-bromo-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-tert-butyl-amine | 129 mmol, 45.3 g | BrC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(C)(C)C | C14H15BrN4S
reactant | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 760 ml | CN(C)C=O | C3H7NO
solvent | NEt3 | 90 ml | CCN(CC)CC | C6H15N
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | copper(I) iodide | 12.9 mmol, 2.4 g | [Cu]I
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 6.5 mmol, 4.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl-[2-(5-trimethylsilanylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-amine | 84 mmol, 30.8 g, 65% | C(C)(C)(C)NC1=C(N=C2N1C=CN=C2)C=2SC(=CC2)C#C[Si](C)(C)C | C19H24N4SSi
